datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"CC1(C)CCC(C2CCC(C)(C)[NH:10]2)N1.C[N+]1=CC=C([CH:21](C(=O)C2=CC=CC=C2)[H:20])C=C1>>CC1(C)CCC(C2CCC(C)(C)[NH+:10]2[H:20])N1.C[N+]1=CC=C([CH-:21]C(=O)C2=CC=CC=C2)C=C1 10=20;20,21=21",
"COCC[O-:10].O=C(C1=CC=NC=C1)[CH:21](C1=CC([N+](=O)[O-])=CC([N+](=O)[O-])=C1)[H:20]>>COCC[O:10][H:20].O=C(C1=CC=NC=C1)[CH-:21]C1=CC([N+](=O)[O-])=CC([N+](=O)[O-])=C1 10=20;20,21=21",
"O=C([O-])CC(=O)/C=N/[O-:10].O=C(c1ccncc1)[N:21](/N=C/c1ccccc1[O-])[H:20]>>O=C([O-])CC(=O)/C=N/[O:10][H:20].O=C(c1ccncc1)[N-:21]/N=C/c1ccccc1[O-] 10=20;20,21=21",
"Cc1ccc(C(=S)[N-:10]c2ccc(F)cc2)cc1.Cc1cccc(S(=O)(=O)[NH:21][H:20])c1>>Cc1ccc(C(=S)[N:10](c2ccc(F)cc2)[H:20])cc1.Cc1cccc(S(=O)(=O)[NH-:21])c1 10=20;20,21=21",
"COC(=O)C[S+:21](C(C)O)[H:20].Cc1ccc(C[N:10]2CC(O[Si](C)(C)C)C2)cc1>>COC(=O)C[S:21]C(C)O.Cc1ccc(C[N+:10]2([H:20])CC(O[Si](C)(C)C)C2)cc1 10=20;20,21=21",
"C[C@@H]1C[C@H](OC(=O)c2ccccc2)CC(C)(C)[NH:10]1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>C[C@@H]1C[C@H](OC(=O)c2ccccc2)CC(C)(C)[NH+:10]1[H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"O=C(C1=CC=CC=C1)[CH:21]([N+](=O)[O-])[H:20].O=[PH]([O-])C(c1ccccc1O)[NH:10]Cc1ccncc1>>O=C(C1=CC=CC=C1)[CH-:21][N+](=O)[O-].O=[PH]([O-])C(c1ccccc1O)[NH+:10](Cc1ccncc1)[H:20] 10=20;20,21=21",
"Nc1sc(-c2ccccc2)c[n+:21]1[H:20].[NH3+]C(Cc1[nH+]c[nH]c1I)C(=O)[O-:10]>>Nc1sc(-c2ccccc2)c[n:21]1.[NH3+]C(Cc1[nH+]c[nH]c1I)C(=O)[O:10][H:20] 10=20;20,21=21",
"CC[N+:21](CCO)(CC(C)O)[H:20].O=S1(=O)[N-]C=Nc2cc(Cl)c(S(=O)(=O)[NH-:10])cc21>>CC[N:21](CCO)CC(C)O.O=S1(=O)[N-]C=Nc2cc(Cl)c(S(=O)(=O)[NH:10][H:20])cc21 10=20;20,21=21",
"C=C(C)[C@@H]1C[NH2+][C@H](C(=O)[O-])[C@@H]1CC(=O)[O-:10].CCN1/C(=[O+:21]\[H:20])N(C)c2ccccc21>>C=C(C)[C@@H]1C[NH2+][C@H](C(=O)[O-])[C@@H]1CC(=O)[O:10][H:20].CCN1C(=[O:21])N(C)c2ccccc21 10=20;20,21=21",
"N#CC1=CC([N+](=O)[O-])=C([CH:21](C#N)[H:20])C=C1.O=P([O-])([O-])C(c1ccccc1[O-])[NH:10]Cc1cccnc1>>N#CC1=CC([N+](=O)[O-])=C([CH-:21]C#N)C=C1.O=P([O-])([O-])C(c1ccccc1[O-])[NH+:10](Cc1cccnc1)[H:20] 10=20;20,21=21",
"CCCOC(=S)[N:21](C(C)=O)[H:20].N#Cc1ccc(S(=O)(=O)[N-:10]Cc2ccccc2)cc1>>CCCOC(=S)[N-:21]C(C)=O.N#Cc1ccc(S(=O)(=O)[N:10](Cc2ccccc2)[H:20])cc1 10=20;20,21=21",
"CCCC[NH:10]Cc1ccc(C)cc1.N#C[CH:21](C1=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1)[H:20]>>CCCC[NH+:10](Cc1ccc(C)cc1)[H:20].N#C[CH-:21]C1=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1 10=20;20,21=21",
"O=C(C1=CC=CC=C1)[CH:21]([N+](=O)[O-])[H:20].O=C([O-])C1CC[NH:10]1>>O=C(C1=CC=CC=C1)[CH-:21][N+](=O)[O-].O=C([O-])C1CC[NH+:10]1[H:20] 10=20;20,21=21",
"CC[NH:10]C(C)C.[H][C:21](C(C)=O)(C(C)=O)[H:20]>>CC[NH+:10](C(C)C)[H:20].[H][C-:21](C(C)=O)C(C)=O 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].Oc1ccccc1CCC[NH2:10]>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.Oc1ccccc1CCC[NH2+:10][H:20] 10=20;20,21=21",
"CSC(=S)N(C)CC(=O)[O-:10].Clc1cccc([O:21][H:20])c1Cl>>CSC(=S)N(C)CC(=O)[O:10][H:20].Clc1cccc([O-:21])c1Cl 10=20;20,21=21",
"CCC[N:10](CCCl)CCCl.COc1ccc(/C(c2ccccc2)=[NH+:21]\[H:20])c(OC)c1>>CCC[N+:10](CCCl)(CCCl)[H:20].COc1ccc(C(c2ccccc2)=[NH:21])c(OC)c1 10=20;20,21=21",
"CNCC[NH:10]C.O=C(C1=CC=CC=C1)[CH:21]([N+](=O)[O-])[H:20]>>CNCC[NH+:10](C)[H:20].O=C(C1=CC=CC=C1)[CH-:21][N+](=O)[O-] 10=20;20,21=21",
"CC(C=C(c1ccccc1)c1ccccc1)[N:10](C)C.Nc1ncc2[nH]c[n+:21]([H:20])c2n1>>CC(C=C(c1ccccc1)c1ccccc1)[N+:10](C)(C)[H:20].Nc1ncc2[nH]c[n:21]c2n1 10=20;20,21=21",
"C[N:10](C)Cc1cccc(NC(=O)/C=N/[O-])c1.Cn1cncc1CC(NC(=O)CC[NH2+:21][H:20])C(=O)[O-]>>C[N+:10](C)(Cc1cccc(NC(=O)/C=N/[O-])c1)[H:20].Cn1cncc1CC(NC(=O)CC[NH2:21])C(=O)[O-] 10=20;20,21=21",
"CC1(C)S[C@H]2[C@@H](NC(=O)Cc3ccc([NH2:10])cc3)C(=O)N2[C@@H]1C(=O)[O-].CCCCCCCC[N+:21](CC(O)CC)(CC(O)CC)[H:20]>>CC1(C)S[C@H]2[C@@H](NC(=O)Cc3ccc([NH2+:10][H:20])cc3)C(=O)N2[C@@H]1C(=O)[O-].CCCCCCCC[N:21](CC(O)CC)CC(O)CC 10=20;20,21=21",
"CC(CCc1ccccc1)[NH2:10].O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20]>>CC(CCc1ccccc1)[NH2+:10][H:20].O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10=20;20,21=21",
"CCN(C)[N:10](C)CC.O=S(=O)([O-])c1cc([O:21][H:20])c2cn[nH]c2c1>>CCN(C)[N+:10](C)(CC)[H:20].O=S(=O)([O-])c1cc([O-:21])c2cn[nH]c2c1 10=20;20,21=21",
"N[NH+:21](CCO)[H:20].c1cnc2c(c1)cc[n-:10]2>>N[NH:21]CCO.c1cnc2c(c1)cc[n:10]2[H:20] 10=20;20,21=21",
"C[N+](C)(C)CCCc1ccccc1[O-:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>C[N+](C)(C)CCCc1ccccc1[O:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"Ic1ccc([O-:10])cc1.ONc1nc[n+:21]([H:20])c2nc[nH]c12>>Ic1ccc([O:10][H:20])cc1.ONc1nc[n:21]c2nc[nH]c12 10=20;20,21=21",
"CCN(CC)Cc1ccccc1[O:21][H:20].c1ccc(C[NH2:10])nc1>>CCN(CC)Cc1ccccc1[O-:21].c1ccc(C[NH2+:10][H:20])nc1 10=20;20,21=21",
"N#Cc1ccc(C[NH2+:21][H:20])cc1.[S-]c1nc([O-:10])c2[nH]cnc2n1>>N#Cc1ccc(C[NH2:21])cc1.[S-]c1nc([O:10][H:20])c2[nH]cnc2n1 10=20;20,21=21",
"CCC(C)(O)c1cnc(CC(C)C)c([O:21][H:20])[n+]1[O-].Cc1cc(CO)c([O-:10])c(CO)c1>>CCC(C)(O)c1cnc(CC(C)C)c([O-:21])[n+]1[O-].Cc1cc(CO)c([O:10][H:20])c(CO)c1 10=20;20,21=21",
